US09447074B2
7-(6-chloro-3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
To an ice cooled solution of 1,1-dimethylethyl 7-(6-chloro-3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate in DCM (1 ml) was added dropwise TFA (1 ml) and the reaction mixture stirred at room temperature until the starting material had been consumed. The reaction mixture was concentrated in vacuo, dissolved in water and backwashed with ethyl acetate. The aqueous layer was neutralised with aqueous sodium bicarbonate then extracted with ethyl acetate, dried over sodium sulphate and concentrated in vacuo to yield the title compound, 27 mg.

reactant | 1,1-dimethylethyl 7-(6-chloro-3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | ClC1=CC=C(C(=N1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)OCC1=NC=CC(=C1)C | C27H30ClN3O3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 7-(6-chloro-3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC=C(C(=N1)C1=CC2=C(CCNCC2)C=C1)OCC1=NC=CC(=C1)C | C22H22ClN3O
